US07253196B2
6-{[1-(4-Chlorophenyl)cyclobutyl]amino}-5-thia-7-azaspiro[3.4]oct-6-en-8-one
Synthesis was performed from N-[1-(4-chlorophenyl)cyclobutyl]thiourea and ethyl 1-bromocyclobutanecarboxylate according to Method D.

reactant | N-[1-(4-chlorophenyl)cyclobutyl]thiourea | ClC1=CC=C(C=C1)C1(CCC1)NC(=S)N | C11H13ClN2S
reactant | ethyl 1-bromocyclobutanecarboxylate | BrC1(CCC1)C(=O)OCC | C7H11BrO2
product | 6-{[1-(4-Chlorophenyl)cyclobutyl]amino}-5-thia-7-azaspiro[3.4]oct-6-en-8-one | ClC1=CC=C(C=C1)C1(CCC1)NC=1SC2(CCC2)C(N1)=O | C16H17ClN2OS
